US04547501
(f) Preparation of 7-chloro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 3.4 g. (0.014 mole) of 7-chloro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 35 ml. of 1N hydrochloric acid and 105 ml. of glacial acetic acid was refluxed for a period of 2.5 hours. Upon completion of this step, the reaction mixture was cooled to room temperature and poured over ice/water. The resulting mixture was then stirred for a period of 20 minutes, filtered and the recovered solid product washed with water and air-dried to constant weight to ultimately afford 2.6 g. (87%) of pure 7-chloro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p.>300° C.

reactant | 7-chloro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.014 mole | ClC=1C=C2N=C(C=3N(C2=CC1)C=NN3)OC | C10H7ClN4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-chloro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=C2N=C(C=3N(C2=CC1)C=NN3)O | C9H5ClN4O
